US07790932B1
To a solution of 6-bis(3,5-dimethylphenyl)phosphino-2-aminopyridine (0.19 g, 0.58 mmol) in dichloromethane (45 mL) at 0° C., triethylamine (152 μL, 1.1 mmol) and pivaloyl chloride (107 μL, 0.87 mmol) are added consecutively. The solution is slowly warmed to ambient temperature, stirred for 40 hours, and concentrated under reduced pressure. The remaining suspension is stirred with activated charcoal (0.25 g) and filtered through a Celite pad. The filtrate is concentrated under reduced pressure and the white residue is purified by column chromatography to yield 6-bis(3,5-dimethylphenyl)phosphino-N-pivaloyl-2-aminopyridine (0.16 g, 65%).

reactant | 6-bis(3,5-dimethylphenyl)phosphino-2-aminopyridine | 0.58 mmol, 0.19 g | CC=1C=C(C=C(C1)C)P(C1=CC=CC(=N1)N)C1=CC(=CC(=C1)C)C | C21H23N2P
reactant | triethylamine | 1.1 mmol, 152 μL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.87 mmol, 107 μL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 6-bis(3,5-dimethylphenyl)phosphino-N-pivaloyl-2-aminopyridine | 0.16 g, 65% | CC=1C=C(C=C(C1)C)P(C1=CC=CC(N1C(C(C)(C)C)=O)N)C1=CC(=CC(=C1)C)C | C26H33N2OP
